US07304081B2
Step 1. 1-{[1-(2,4-dichlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-ol
To a solution of 3-pyrrolidinol (0.861 mL, 0.0106 mol) in N,N-dimethylformamide (5 mL, 0.06 mol) were added 1-(2,4-dichlorophenyl)cyclopropanecarboxylic acid and BOP. After the mixture was stirred for 3 min, DIEA was added. After the reaction mixture was stirred for 3 h, the solution was diluted with AcOEt, washed with sat'd. NaHCO3 aq. (×3), water and brine successively, dried with MgSO4, and concentrated in-vacuo.

reactant | 3-pyrrolidinol | 0.0106 mol, 0.861 mL | N1CC(CC1)O | C4H9NO
reactant | N,N-dimethylformamide | 0.06 mol, 5 mL | CN(C=O)C | C3H7NO
reactant | 1-(2,4-dichlorophenyl)cyclopropanecarboxylic acid | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=O)O | C10H8Cl2O2
reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 1-{[1-(2,4-dichlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-ol | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=O)N1CC(CC1)O | C14H15Cl2NO2
